US06949579B2
5.1 g of chloracetic anhydride are added to 5 g of 6-chloro-1H-indazole-3-amine in 300 cm3 of toluene and the mixture is refluxed for 18 hours. The precipitate formed is filtered off, washed with 20 cm3 of toluene and then with 20 cm3 of methylene chloride and dried under reduced pressure (90 Pa; 45° C.) to give 5.1 g of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide in the form of a grey powder melting at 223° C.

reactant | chloracetic anhydride | 5.1 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 6-chloro-1H-indazole-3-amine | 5 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | toluene | 300 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 5.1 g | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
